US07807709B2
a. 4-Methoxy-3-(4,4,4-trifluoro-butoxy)-benzoic acid ethyl ester
A suspension of 3-hydroxy-4-methoxy-benzoic acid ethyl ester (1.00 g, 5.10 mmol), 1-bromo-4,4,4-trifluorobutane (1.12 g, 5.86 mmol) and anhydrous K2CO3 (2.14 g, 15.3 mmol) in MeCN (10 mL) is refluxed with stirring overnight. After cooling, the mixture is filtered, and the filtrates are evaporated to drying to give the title compound as white solid. TLC, Rf (hexane/AcOEt 1:1)=0.62. MS: 307.0 [M+H]+. 1H-NMR (CDCl3): δ 1.42 (m, 3H), 2.1-2. (m, 2H), 2.3-2.45 (m, 2H), 3.95 (s, 3H), 4.14 (m, 2H), 4.39 (m, 2H), 6.93 (dd, 1H), 7.58 (d, 1H), 7.74 (dd, 1H) ppm.

reactant | 3-hydroxy-4-methoxy-benzoic acid ethyl ester | 5.10 mmol, 1.00 g | C(C)OC(C1=CC(=C(C=C1)OC)O)=O | C10H12O4
reactant | 1-bromo-4,4,4-trifluorobutane | 5.86 mmol, 1.12 g | BrCCCC(F)(F)F | C4H6BrF3
reactant | K2CO3 | 15.3 mmol, 2.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 4-Methoxy-3-(4,4,4-trifluoro-butoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OC)OCCCC(F)(F)F)=O | C14H17F3O4
